US06831106B1
1-[3′-(3, 4-Bis-hydroxymethylbenzyloxy)-2-methylbiphenyl-4-yl]-2,2-dimethyl-1-propanol
In a manner similar to that of Example 1(i), by reaction of 11.8 g (44.8 mmol) of 4′-bromo-2′-methylbiphenyl-3-ol with 14.2 g (49 mmol) of dimethyl 4-bromomethylphthalate and 6.5 g (47 mmol) of potassium carbonate, the desired product is obtained in the form of a yellow oil (m=16.4 g; Y=78%).

reactant | 4′-bromo-2′-methylbiphenyl-3-ol | 44.8 mmol, 11.8 g | BrC1=CC(=C(C=C1)C1=CC(=CC=C1)O)C | C13H11BrO
reactant | dimethyl 4-bromomethylphthalate | 49 mmol, 14.2 g | BrCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C11H11BrO4
reactant | potassium carbonate | 47 mmol, 6.5 g | C([O-])([O-])=O.[K+].[K+]
product | 1-[3′-(3, 4-Bis-hydroxymethylbenzyloxy)-2-methylbiphenyl-4-yl]-2,2-dimethyl-1-propanol | OCC=1C=C(COC=2C=C(C=CC2)C2=C(C=C(C=C2)C(C(C)(C)C)O)C)C=CC1CO | C27H32O4
